US08471005B2
A mixture of 2-[4-(3-Methoxy-4-nitro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-acetamide (240 mg, 0.82 mmol), iron (138 mg, 2.47 mmol), ammonium chloride (22.0 mg, 0.412 mmol) in ethanol (7 mL, 100 mmol) and water (3 mL, 200 mmol) was heated at 80° C. After 3 h, MS showed product with no SM. The mixture was cooled, solvent was evaporated and was diluted with aq. Na2CO3 solution and EtOAc. The mixture was filtered through a pad of celite, extracted from EtOAc, combined organic was washed with brine. After drying, the solvent was evaporated to give the product, 2-[4-(4-Amino-3-methoxy-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-acetamide, as a foam (195 mg, 91%). The product was taken to the next step without further purification. MS: 262 (M+H).

reactant | 2-[4-(3-Methoxy-4-nitro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-acetamide | 0.82 mmol, 240 mg | COC=1C=C(C=CC1[N+](=O)[O-])C=1CCN(CC1)CC(=O)N | C14H17N3O4
reactant | ammonium chloride | 0.412 mmol, 22.0 mg | [Cl-].[NH4+]
reactant | ethanol | 100 mmol, 7 mL | C(C)O | C2H6O
reactant | water | 200 mmol, 3 mL | O | H2O
catalyst | iron | 2.47 mmol, 138 mg | [Fe] | Fe
product | 2-[4-(4-Amino-3-methoxy-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-acetamide | NC1=C(C=C(C=C1)C=1CCN(CC1)CC(=O)N)OC | C14H19N3O2
